US09029371B2
To a solution of KOtBu (6.68 g; 59.5 mmol) in 2-methyl-2-butanol (100 mL) was added dropwise a solution of N-[2-(4-benzyloxy-phenyl)-2-hydroxy-ethyl]-2-chloro-acetamide (17.30 g; 54.1 mmol) in THF (100 mL). The resulting mixture was stirred for 1 hour at RT and then concentrated in vacuo. The residue was dissolved in CH2Cl2 and treated with a 1M aqueous solution of HCl, at 0° C. The layers were separated and the aqueous layer extracted with CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo to afford 6-(4-benzyloxy-phenyl)-morpholin-3-one (14.10 g).

reactant | KOtBu | 59.5 mmol, 6.68 g | CC(C)(C)[O-].[K+]
reactant | N-[2-(4-benzyloxy-phenyl)-2-hydroxy-ethyl]-2-chloro-acetamide | 54.1 mmol, 17.30 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CNC(CCl)=O)O | C17H18ClNO3
solvent | 2-methyl-2-butanol | 100 mL | CC(C)(CC)O | C5H12O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-(4-benzyloxy-phenyl)-morpholin-3-one | 14.10 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1OCC(NC1)=O | C17H17NO3
